US07179823B1
Diethyl azodicarboxylate (40% in toluene, 1.00 g) was added dropwise slowly to a mixture of methyl 3-[1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate (500 mg), (2,5-dimethyl-4-oxazolyl]methanol (275 mg), triphenylphosphine (585 mg) and tetrahydrofuran (10 ml) at room temperature. After the mixture was stirred at room temperature for 8 hours, the reaction solvent was removed under reduced pressure. The residue was subjected to silica gel column chromatography, and methyl 3-[1-[4-(2,5-dimethyl-4-oxazolylmethoxy)benzyl]3-phenyl-1H-pyrazol-4-yl]propionate (288 mg, yield: 44%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (6:5, volume ratio).

reactant | Diethyl azodicarboxylate | 1.00 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methyl 3-[1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate | 500 mg | OC1=CC=C(CN2N=C(C(=C2)CCC(=O)OC)C2=CC=CC=C2)C=C1 | C20H20N2O3
reactant | (2,5-dimethyl-4-oxazolyl]methanol | 275 mg | CC=1OC(=C(N1)CO)C | C6H9NO2
reactant | triphenylphosphine | 585 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl 3-[1-[4-(2,5-dimethyl-4-oxazolylmethoxy)benzyl]3-phenyl-1H-pyrazol-4-yl]propionate | 288 mg, yield: 44% | CC=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)OC)C2=CC=CC=C2)C=C1)C | C26H27N3O4
